US07423159B2
A mixture of 4-(4-fluorophenyl)-4H-1,2,4-triazole-3-carbaldehyde (3.83 g), ethyl diethylphosphonoacetate (5.60 g), sodium hydride (60% in oil, 0.88 g) and tetrahydrofuran (130 ml) was stirred at 0° C. for 1 hr. The reaction mixture was poured into an aqueous dilute hydrochloric acid solution and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was dissolved in a 6N aqueous hydrochloric acid solution (100 ml) and stirred for 2 hrs. with heating under reflux. Disodium hydrogen phosphate was added to neutralize the reaction mixture. The precipitated solids were collected by filtration, washed with water and dried to give (2E)-3-[4-(4-fluorophenyl)-4H-1,2,4-triazol-3-yl]acrylic acid (3.60 g, yield 76%) as pale-yellow crystals. melting point: 226-229° C. (recrystallized from ethyl acetate-hexane).

reactant | 4-(4-fluorophenyl)-4H-1,2,4-triazole-3-carbaldehyde | 3.83 g | FC1=CC=C(C=C1)N1C(=NN=C1)C=O | C9H6FN3O
reactant | ethyl diethylphosphonoacetate | 5.60 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 0.88 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | (2E)-3-[4-(4-fluorophenyl)-4H-1,2,4-triazol-3-yl]acrylic acid | 3.60 g, yield 76% | FC1=CC=C(C=C1)N1C(=NN=C1)/C=C/C(=O)O | C11H8FN3O2
